US04548932
A mixture of isonicotinaldehyde (25 g), ethyl(triphenylphosphoranylidene)acetate (82 g) and toluene (300 ml) is stirred for 3 hours at 100° C. After cooling, the crystals that precipitated are removed by filtration, and the filtrate is concentrated in vacuo. The residue is dissolved in a mixture of ethyl acetate and petroleum ether (1:1, 400 ml), and the resulting solution is extracted with 5% hydrochloric acid (500 ml). The aqueous layer is extracted with ethyl acetate (50 ml) and neutralized with potassium carbonate. After cooling, the resulting crystals are collected by filtration and dried to give ethyl 3-(4-pyridyl)acrylate (34 g) as colorless prisms, mp 64°-66° C.

reactant | isonicotinaldehyde | 25 g | C(C1=CC=NC=C1)=O | C6H5NO
reactant | ethyl(triphenylphosphoranylidene)acetate | 82 g | C(C)OC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H21O2P
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-(4-pyridyl)acrylate | 34 g | N1=CC=C(C=C1)C=CC(=O)OCC | C10H11NO2
